US04017621
To a solution of 5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine (0.34 g) in anhydrous benzene was added excess acetyl chloride under ice cooling. After stirring for 4 hours, the reaction mixture was washed with aqueous 2N sodium hydroxide and then with water, dried and evaporated to afford 5-(4-acetyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine as an oily substance.

reactant | 5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 0.34 g | N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H22N2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(4-acetyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | C(C)(=O)N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C21H24N2O2
